US08664261B2
2-isopropyl-2,3-dimethyl-N-(1-(furan-2-yl)ethyl)butanamide
In a 25 mL round bottom flask, fitted with magnetic stirrer, 15 mL of tetrahydrofuran, 2.1 mmol (1.5 eq.) of pyridine and 1.54 mmol (1.1 eq.) of 1-(furan-2-yl)ethanamine were added. 1.4 mmol of 2-isopropyl-2,3-dimethylbutanoyl chloride (prepared by hydrolysis of 2-isopropyl-N,2,3-trimethylbutanamide, WS-23 with NaNO2 in H2SO4 and subsequent acid chloride formation with SOCl2) were added and the mixture was stirred at room to temperature for 16 hours, overnight. The reaction mixture was extracted with MTBE and HCl (1N in water). The organic layer was washed with NaOH (1N in water) and brine, dried over MgSO4 and concentrated. The crude product was purified by column chromatography, obtaining 160 mg of a beige solid, mp 57-60° C.

reactant | pyridine | 2.1 mmol, 1.5 eq. | N1=CC=CC=C1 | C5H5N
reactant | 1-(furan-2-yl)ethanamine | 1.54 mmol, 1.1 eq. | O1C(=CC=C1)C(C)N | C6H9NO
reactant | 2-isopropyl-2,3-dimethylbutanoyl chloride | 1.4 mmol | C(C)(C)C(C(=O)Cl)(C(C)C)C | C9H17ClO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-isopropyl-2,3-dimethyl-N-(1-(furan-2-yl)ethyl)butanamide | 160 mg | C(C)(C)C(C(=O)NC(C)C=1OC=CC1)(C(C)C)C | C15H25NO2
